US07342118B2
2-[2-(3-Trifluoromethyl-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide was coupled with (3-trifluoromethylphenyl)-acetic acid to afford the title compound: C13 NMR (100 MHz, CDCl3) 13.9, 18.9, 25.9, 35.9, 43.2, 53.1, 55.5, 59.2, 67.4, 68.8, 105.3, 112.5, 124.1, 124.2, 126.2, 126.3, 129.3, 131.7, 132.9, 136.1, 137.5, 169.3, 169.7; MS m/z 510.4 (M+1).

reactant | 2-Amino-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCOCC1)(C)N1C=NC(=C1)NC(C(CCC)N)=O | C16H29N5O2
reactant | (3-trifluoromethylphenyl)-acetic acid | FC(C=1C=C(C=CC1)CC(=O)O)(F)F | C9H7F3O2
product | 2-[2-(3-Trifluoromethyl-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCOCC1)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H34F3N5O3
